US04826866
A stirred slurry of 8.4 g (0.049 mole) of 4-cyclopentyl-4-methyl-3-thiosemicarbazide in 50 mL of absolute ethanol was treated with 8.1 g (0.049 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 18 hr, treated with 25 mL of 2N ethanolic hydrogen chloride and heated at reflux for 2 hr. The hot solution was filtered to remove amorphous sulfur and concentrated to a red oil which gave a crude solid product when triturated with acetone. After four recrystallizations; methyl ethyl ketone/2-propyl ether (twice), acetonitrile/acetone and finally from acetonitrile, there was obtained 3.2 g of crystalline product, mp 144°-146° C., as the hydrochloride salt.

reactant | 4-cyclopentyl-4-methyl-3-thiosemicarbazide | 0.049 mole, 8.4 g | C1(CCCC1)N(C(NN)=S)C | C7H15N3S
reactant | ethyl 2-chloroacetoacetate | 0.049 mole, 8.1 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 25 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl ethyl ketone 2-propyl ether | C(C)C(=O)C.CC(C)OC(C)C | InChI=1S/C6H14O.C4H8O/c1-5(2)7-6(3)4;1-3-4(2)5/h5-6H,1-4H3;3H2,1-2H3
